US06919356B2
Part N: Preparation of 1-{1-[3-(4-fluorophenyl)-2,2-dimethylpropyl]-piperidin-3-ylmethyl}-3-[3-(1-methyl-1H-tetrazol-5-yl)-phenyl]-urea
A solution of borane in tetrahydrofuran (1.0 M, 5.3 mL, 5.3 mmol) was added to 1-{1-[3-(4-fluorophenyl)-2,2-dimethylpropionyl]-piperidin-3-ylmethyl}-3-[3-(1-methyl-1H-tetrazol-5-yl)-phenyl]-urea (66 mg, 134 μmol) and the resulting solution was stirred at room temperature for 18 hours. A mixture of 1.0 N hydrochloric acid (5 mL) and methanol (5 mL) was added very slowly until the resulting vigorous reaction subsided, then the remainder was added quickly and the resulting solution was stirred at room temperature for 5 hours. The solution was concentrated under vacuum. The residue was dissolved in 1.0 N aqueous sodium hydroxide and dichloromethane, and the phases were separated. The aqueous phase was extracted twice with dichloromethane, and the combined organic phases were dried over sodium sulfate and concentrated under vacuum. The residue was purified twice by flash chromatography, eluting with 4% methanol in dichloromethane containing 0.4% aqueous ammonium hydroxide, to provide a white amorphous solid (24 mg, 38%). 1H NMR (300 MHz, CDCl3) δ7.81 (s, 1H), 7.68 (d, J=8 Hz, 1H), 7.34 (t, J=8 Hz, 1H), 7.18 (m, 1H), 7.01 (m, 2H), 6.84 (t, J=9 Hz, 2H), 4.09 (s, 3H), 3.09 (m, 2H), 2.95 (m, 1H), 2.55 (s, 2H), 2.40 (m, 3H), 2.10 (m, 1H), 1.9-1.5 (m, 5H), 1.0 (m, 1H), 0.85 (s, 6H). Mass spec (ES+) m/z 480.5 (M+H+).

reactant | borane | B | BH3
reactant | tetrahydrofuran | 5.3 mmol, 1.0 M, 5.3 mL | O1CCCC1 | C4H8O
reactant | 1-{1-[3-(4-fluorophenyl)-2,2-dimethylpropionyl]-piperidin-3-ylmethyl}-3-[3-(1-methyl-1H-tetrazol-5-yl)-phenyl]-urea | 134 μmol, 66 mg | FC1=CC=C(C=C1)CC(C(=O)N1CC(CCC1)CNC(=O)NC1=CC(=CC=C1)C1=NN=NN1C)(C)C | C26H32FN7O2
reactant | hydrochloric acid | 1.0 N, 5 mL | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
product | 1-{1-[3-(4-fluorophenyl)-2,2-dimethylpropyl]-piperidin-3-ylmethyl}-3-[3-(1-methyl-1H-tetrazol-5-yl)-phenyl]-urea | 24 mg, 38% | FC1=CC=C(C=C1)CC(CN1CC(CCC1)CNC(=O)NC1=CC(=CC=C1)C1=NN=NN1C)(C)C | C26H34FN7O
